US07678826B2
A2) Preparation of 2-[2-(2-benzyloxycarbonylmethoxy-5-chloro-benzyl)-4-chloro-phenoxy]-propionic acid tert-butyl ester
To a solution of 2-bromopropionic acid tert-butyl ester (0.827 g, 3.95 mmol) in DMF (15 mL) is added [4-chloro-2-(5-chloro-2-hydroxy-benzyl)-phenoxy]-acetic acid benzyl ester (1.5 g, 3.60 mmol) and potassium carbonate (0.547 g, 3.95 mmol). The reaction mixture is stirred at RT overnight and the solvent is removed in vacuo. The crude product is dissolved in EtOAc (50 mL) and washed with water (50 mL) and brine (50 mL). The organic portion is dried (MgSO4) and concentrated in vacuo to yield a yellow oil which is dried in a vacuum oven for 2 hours to afford the titled product which is used in the next step without purification.

reactant | 2-bromopropionic acid tert-butyl ester | 3.95 mmol, 0.827 g | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
reactant | [4-chloro-2-(5-chloro-2-hydroxy-benzyl)-phenoxy]-acetic acid benzyl ester | 3.60 mmol, 1.5 g | C(C1=CC=CC=C1)OC(COC1=C(C=C(C=C1)Cl)CC1=C(C=CC(=C1)Cl)O)=O | C22H18Cl2O4
reactant | potassium carbonate | 3.95 mmol, 0.547 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-[2-(2-benzyloxycarbonylmethoxy-5-chloro-benzyl)-4-chloro-phenoxy]-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)OC1=C(C=C(C=C1)Cl)CC1=C(C=CC(=C1)Cl)OCC(=O)OCC1=CC=CC=C1)=O | C29H30Cl2O6
